US09029370B2
(RS)-2-(4-Bromo-2-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester
Under N2, tert-butyl 2-(4-bromo-2-fluoro-phenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate (7.385 g, 19.5 mmol, Eq: 1.00) and triphenylphosphine (6.15 g, 23.4 mmol, Eq: 1.2) were dissolved in TBME (33 ml). Under ice-bath cooling, DIAD (5.04 g, 4.85 ml, 23.4 mmol, Eq: 1.2) was added (exotherm). The yellow solution was stirred at RT overnight. The RM became a yellow suspension. Control with TLC: the reaction was finished. The solvent was evaporated. TBME was added and the solid was filtered. The filtrate was evaporated. The crude material was purified by flash chromatography (silica gel, 100 g, 5% to 40% EtOAc in heptane).

reactant | tert-butyl 2-(4-bromo-2-fluoro-phenyl)-2-hydroxyethyl(2-hydroxyethyl)carbamate | 19.5 mmol, 7.385 g | BrC1=CC(=C(C=C1)C(CN(C(OC(C)(C)C)=O)CCO)O)F | C15H21BrFNO4
reactant | triphenylphosphine | 23.4 mmol, 6.15 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | DIAD | 23.4 mmol, 4.85 ml, 5.04 g | CC(C)OC(=O)/N=N/C(=O)OC(C)C | C8H14N2O4
solvent | TBME | 33 ml | CC(C)(C)OC | C5H12O
product | (RS)-2-(4-Bromo-2-fluoro-phenyl)-morpholine-4-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(OCC1)C1=C(C=C(C=C1)Br)F | C15H19BrFNO3
